US07569589B2
To a solution of methyl 2-(1-benzylpyrrolidin-2-ylidene)(phenyl)acetate (0.505 g, 1.64 mmol) in 5 mL of methanol was added palladium(II) hydroxide (231 mg, 1.64 mmol), and the reaction was stirred under a balloon of hydrogen gas. After 3 days, the mixture was filtered through celite, the pad was rinsed with CH2Cl2/MeOH, and the filtrate was concentrated in vacuo to provide methyl phenyl(pyrrolidin-2-yl)acetate as a mixture of two diastereomers. ESI+MS: 220.2 [M+H]+.

reactant | methyl 2-(1-benzylpyrrolidin-2-ylidene)(phenyl)acetate | 1.64 mmol, 0.505 g | C(C1=CC=CC=C1)N1C(CCC1)=C(C(=O)OC)C1=CC=CC=C1 | C20H21NO2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium(II) hydroxide | 1.64 mmol, 231 mg | [OH-].[Pd+2].[OH-]
product | methyl phenyl(pyrrolidin-2-yl)acetate | C1(=CC=CC=C1)C(C(=O)OC)C1NCCC1 | C13H17NO2
